US05753657
To a solution of 0.48 g of ammonium acetate in 120 ml of 28% aqueous ammonia solution are successively added 3.25 g of 8-fluoro-10-hydroxyimino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one, 120 ml of ethanol and 3.55 g of zinc powder. The mixture is stirred for 2 hours at boiling and for 16 hours at a temperature in the region of 20° C., followed by dropwise addition of 60 ml of aqueous 5N hydrochloric acid solution and the mixture is stirred for 16 hours at the same temperature. The insoluble material formed is removed by filtration and the filtrate is concentrated to dryness under reduced pressure (10 mmHg; 1.3 kPa) at 50° C. The product obtained (13.4 g) is stirred in suspension in 30 ml of distilled water and the insoluble material is separated out by filtration, washed twice with 4 ml in total of distilled water and dried under reduced pressure (10 mmHg; 1.3 kPa) at 50° C. The product obtained (1.35 g) is suspended for 10 minutes in 10 ml of boiling methanol. After cooling and storing for 16 hours at 5° C., the insoluble material is separated out by filtration, washed with 1 ml of methanol and resuspended for 10 minutes in 5 ml of boiling methanol. After cooling and storing for 6 hours at 5° C., the insoluble material is separated out by filtration, washed with 1 ml of methanol and dried under reduced pressure (1 mmHg; 0.13 kPa) at 100° C. 0.48 g of 10-amino-8-fluoro-5H,10H-imidazo[1,2-a]-indeno[1,2-e]pyrazin-4-one hydrochloride is thus obtained, decomposing without melting above 260° C. [N.M.R. spectrum: [200 MHz; (CD3)2SO d6 ; δ in ppm]: 5.69 (broad s, 1H: --CH-- 10); 7.44 (dt, J=8.5 and 2 Hz, 1H: --H7); 7.68 and 8.54 (2s, 1H each: --H of the imidazole); 7.93 (dd, J=8.5 and 2 Hz, 1H: --H9); 7.94 (dd, J=8.5 and 6 Hz, 1H: --H6); 9.30 (cplx, 3H: --NH3+Cl- ; 12.72 (wide cplx, 1H: --CONH--)].

reactant | ammonium acetate | 0.48 g | C(C)(=O)[O-].[NH4+]
reactant | 8-fluoro-10-hydroxyimino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 3.25 g | FC1=CC=2C(C3=C(NC(C=4N3C=CN4)=O)C2C=C1)=NO | C13H7FN4O2
reactant | ethanol | 120 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | ammonia | 120 ml | N | H3N
solvent | water | 30 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
catalyst | zinc | 3.55 g | [Zn] | Zn
product | 10-amino-8-fluoro-5H,10H-imidazo[1,2-a]-indeno[1,2-e]pyrazin-4-one hydrochloride | 0.48 g | Cl.NC1C=2C=C(C=CC2C=2NC(C=3N(C21)C=CN3)=O)F | InChI=1S/C13H9FN4O.ClH/c14-6-1-2-7-8(5-6)9(15)11-10(7)17-13(19)12-16-3-4-18(11)12;/h1-5,9H,15H2,(H,17,19);1H
